US05686258
Synthesis of p-Phenylphenol-β-D-galactopyranoside
To a solution of p-phenylphenol (250 mg, 1.46 mmol) in acetone, 1 mL of 10N KOH was added followed by acetobromogalactose (1.8 g, 4.37 mmol). The reaction mixture was stirred overnight at room temperature. TLC analysis showed no starting material left. 10N KOH (1 mL) was added to complete deacetylation and the solution was again stirred overnight. After evaporation of acetone, the crude material was taken up in ethyl acetate and washed with 5×150 mL of water. Ethyl acetate was dried with MgSO4 and concentrated under reduced pressure to obtain a white solid which was further purified by column chromatography using 30% methanol/ethyl acetate; 1H NMR (CD3OD) δ3.56-3.91 (m, 6H), 4.89 (m, 1H), 7.15-7.57 (m,9H).

reactant | p-phenylphenol | 1.46 mmol, 250 mg | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | acetobromogalactose | 4.37 mmol, 1.8 g | CC(=O)OCC1C(C(C(C(O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
solvent | acetone | CC(=O)C | C3H6O
solvent | KOH | 10N, 1 mL | [OH-].[K+]
solvent | KOH | 10N, 1 mL | [OH-].[K+]
product | p-Phenylphenol-β-D-galactopyranoside | [C@@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)OC1=CC=C(C=C1)C1=CC=CC=C1 | C18H20O6
